US06448266B1
1-Benzyl-4-[3-(ethoxycarbonyl)-1-hydroxycyclobutan-3-yl]-2-pyrrolidone (Isomer A)
A 524 mg (1.29 mmol) portion of 1-benzyl-4-[1-benzyloxy-3-(ethoxycarbonyl)cyclobutan-3-yl]-2-pyrrolidone (Isomer A) was dissolved in 20 ml of ethanol, and the solution was mixed with 530 mg of palladium hydroxide on carbon catalyst and subjected to 1.5 hours of catalytic reduction under a hydrogen pressure of 5 atmospheres and under irradiation of light. After removal of the catalyst by filtration, the solvent was evaporated and the resulting residue was purified by a silica gel column chromatography (chloroform:methanol=95:5) to give 454 mg (quantitative) of the title compound.

reactant | 1-benzyl-4-[1-benzyloxy-3-(ethoxycarbonyl)cyclobutan-3-yl]-2-pyrrolidone | C(C1=CC=CC=C1)N1C(CC(C1)C1(CC(C1)OCC1=CC=CC=C1)C(=O)OCC)=O | C25H29NO4
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 530 mg | [OH-].[OH-].[Pd+2]
product | 1-Benzyl-4-[3-(ethoxycarbonyl)-1-hydroxycyclobutan-3-yl]-2-pyrrolidone | C(C1=CC=CC=C1)N1C(CC(C1)C1(CC(C1)O)C(=O)OCC)=O | C18H23NO4
